US04847306
(a) Ethyl 1-benzyloxymethylcyclobutanecarboxylate (6a)
n-Butyl lithium solution (2.20M in hexane, 23.2 ml, 51 mmol) was added via a syringe under nitrogen to a stirred solution of di-i-propylamine (5.13 g, 51 mmol) and HMPA (3.5 ml, 20 mmol) in THF (100 ml) at 0° C. The resulting mixture was stirred at 0° C. for 10 minutes, cooled to -78° C., added a solution of ethyl cyclobutanecarboxylate (5 g, 39 mmol) in THF (10 ml) via a dropping funnel. The resulting mixture was stirred at -78° C. for 0.5 hour, then warmed to 0° C. and stirred for 0.5 hour. The mixture was recooled to -78° C., treated with a solution of benzyl chloromethyl ether (6.58 g, 42 mmol) in THF (10 ml). The resulting mixture was stirred at -78° C. for 20 minutes, slowly warmed to room temperature and stirred for 1 hour. It was poured into cold water, extracted with diethyl ether. The ethereal extract was washed successively with diluted HCl, 5% NaHCO3, dried, filtered and evaporated to give a residue. This residue was purified by distillation to afford the desired product as a pale yellow oil: bp 102°-3° C. (0.02 mm); NMR (CDCl3) δ=1.23 (3H, t, J=7 Hz), 1.6~2.6 (6H, m), 3.68 (2H, s), 4.15 (2H, q, J=7 Hz), 4.53 (2H, s), 7.30 (5H, s).

reactant | n-Butyl lithium | 51 mmol, 2.20M, 23.2 ml | C(CCC)[Li]
reactant | di-i-propylamine | 51 mmol, 5.13 g | C(C)(C)NC(C)C | C6H15N
reactant | HMPA | 20 mmol, 3.5 ml | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | ethyl cyclobutanecarboxylate | 39 mmol, 5 g | C1(CCC1)C(=O)OCC | C7H12O2
reactant | benzyl chloromethyl ether | 42 mmol, 6.58 g | ClCOCC1=CC=CC=C1 | C8H9ClO
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | Ethyl 1-benzyloxymethylcyclobutanecarboxylate | C(C1=CC=CC=C1)OCC1(CCC1)C(=O)OCC | C15H20O3
